US03953430
Preparation of 5,10-Dihydro-5-(3-dimethylaminopropyl)-10-methyl-6H-pyrido[3,2-b]thieno[3,4-e] [1,4]diazepin-6-one
A mixture of 0.69 g. of 55% sodium hydride-mineral oil dispersion and 0.9 ml. of dimethylaminopropylchloride in 30 ml. of dry dimethylformamide is stirred at room temperature for 0.5 hours. To the mixture is added 0.70 g. of 5,10-dihydro-10-methyl-6H-pyrido[3,2-b]thieno[3,4-e] [1,4]diazepin-6-one and stirring is continued for 18 hours. The reaction mixture is cooled, quenched with water and extracted with chloroform. The dried chloroform extracts are concentrated to an amber oil, which is purified by preparative thin layer chromatography (tlc) on silica gel with 10:1 benzene:methanol as eluent to give a semi-solid. The perchlorate salt is preparaed by standard procedures and is recyrstallized from water to give a white solid, m.p. 263°-265°C. (dec.).

reactant | sodium hydride | [H-].[Na+]
reactant | dimethylaminopropylchloride | CN(C)CCCCl | C5H12ClN
reactant | 5,10-dihydro-10-methyl-6H-pyrido[3,2-b]thieno[3,4-e] [1,4]diazepin-6-one | CN1C2=C(NC(C=3C1=CSC3)=O)C=CC=N2 | C11H9N3OS
reactant | perchlorate | Cl(=O)(=O)(=O)[O-]
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,10-Dihydro-5-(3-dimethylaminopropyl)-10-methyl-6H-pyrido[3,2-b]thieno[3,4-e] [1,4]diazepin-6-one | CN(CCCN1C2=C(N(C=3C(C1=O)=CSC3)C)N=CC=C2)C | C16H20N4OS
